US09238647B2
Step B: tert-butyl 8-chloro[1,2,4]triazolo[4,3-a]pyridine-6-carboxylate
Trimethyl orthoformate (19 mL, 172 mmol) was added neat to tert-butyl 5-chloro-6-hydrazinonicotinate (1.9 g, 7.8 mmol). The mixture was heated to 85° C. After 4 h, the mixture was cooled to ambient temperature and concentrated to dryness: LC-MS [M+1]=254.1.

reactant | Trimethyl orthoformate | 172 mmol, 19 mL | C(OC)(OC)OC | C4H10O3
reactant | tert-butyl 5-chloro-6-hydrazinonicotinate | 7.8 mmol, 1.9 g | ClC=1C(=NC=C(C(=O)OC(C)(C)C)C1)NN | C10H14ClN3O2
product | tert-butyl 8-chloro[1,2,4]triazolo[4,3-a]pyridine-6-carboxylate | ClC=1C=2N(C=C(C1)C(=O)OC(C)(C)C)C=NN2 | C11H12ClN3O2
